US06835469B2
2-Chloro-4-methylquinoline (5.0 g, 30 mmol) and phenyl boronic acid (4.4 g, 36 mmol) were dissolved into 100 mL of ethylene glycol dimethyl ether. To the stirred reaction was added triphenylphosphine (0.8 g) and palladium(II) acetate, followed by 50 mL of a 2 M solution of potassium carbonate. The reaction was refluxed for 16 hours. After cooling, the aqueous layer was discarded and additional ethyl acetate added. The organics were washed with a saturated solution of sodium chloride and separated. The organic layer was dried over magnesium sulfate, concentrated, and purified on a silica gel column using 20% ethyl acetate and hexanes as the eluants. The pure fractions were combined and concentrated to give 2-phenyl-4-methylquinoline (4.0 g, 61% yield) as an oil.

reactant | 2-Chloro-4-methylquinoline | 30 mmol, 5.0 g | ClC1=NC2=CC=CC=C2C(=C1)C | C10H8ClN
reactant | phenyl boronic acid | 36 mmol, 4.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 0.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
product | 2-phenyl-4-methylquinoline | 4.0 g, 61% yield | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C | C16H13N
